US04952602
24 ml of 2.5M n-butyl lithium in hexane are added dropwise to a tetrahydrofuran solution of 10.85 g 4-bromoveratrole under cooling. After stirring the mixture, 5.61 g of 3-thiophenecarboaldehyde are added thereto, and warmed to room temperature. Water is added thereto, and the mixture is extracted with ethyl acetate. The extract is dried and evaporated under reduced pressure to remove the solvent, whereby 3-(α-hydroxy-3,4-dimethoxybenzyl)thiophene is obtained. 2.8 g of sodium hydride are added to a solution of the product in dimethylformamide, and the mixture is stirred at room temperature. 4.7 ml of methyl iodide are added thereto, and the mixture is stirred. A small amount of water is added thereto, and the mixture is evaporated under reduced pressure to remove the solvent. Water is added to the residue and the mixture is extracted with ethyl acetate. The extract is dried and evaporated under reduced pressure to remove the solvent. The residue is purified by using silica gel column, whereby 10.5 g of 3-(α-methoxy-3,4-dimethoxybenzyl)thiophene are obtained.

reactant | n-butyl lithium | 2.5M, 24 ml | C(CCC)[Li]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 4-bromoveratrole | 10.85 g | BrC=1C=C(C(=CC1)OC)OC | C8H9BrO2
reactant | 3-thiophenecarboaldehyde | 5.61 g | S1C=C(C=C1)C=O | C5H4OS
solvent | hexane | CCCCCC | C6H14
solvent | Water | O | H2O
product | 3-(α-hydroxy-3,4-dimethoxybenzyl)thiophene | OC(C1=CC(=C(C=C1)OC)OC)C1=CSC=C1 | C13H14O3S
